US04492711
According to the above procedure, by reacting 0.02 mol of 3-amino-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide and 0.02 mol of 1,1-bis-methylthio-2-nitroethene in 50 ml of ethanol, the 3-[N-(1-methylthio-2-nitroethenyl)amino]-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide is obtained in 65% yield, said compound being then dissolved in ethanol and treated with a 33% solution of methylamine in ethanol to give the 3-[N-(1-methylamino-2-nitroethenyl)amino]-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide as a practically pure oil. The product thus obtained is transformed into its oxalate in 95% ethanol. After crystallization from 200 ml of ethanol, the pure oxalate is obtained in 43% yield; m.p. 175°-177° C.

reactant | 3-amino-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide | 0.02 mol | NC=1C=C(C(=O)NCCSCC=2OC(=CC2)CN(C)C)C=CC1 | C17H23N3O2S
reactant | 1,1-bis-methylthio-2-nitroethene | 0.02 mol | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-[N-(1-methylthio-2-nitroethenyl)amino]-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide | 65% yield | CSC(=C[N+](=O)[O-])NC=1C=C(C(=O)NCCSCC=2OC(=CC2)CN(C)C)C=CC1 | C20H26N4O4S2
